US07282602B2
Preparation of di-(L-arginine) 2,2′-Dithiobis Ethane Sulfonate
A solution of 2,2′-dithiobis ethane sulfonic acid (2.5 g, containing 9% water, 8.1 mmol) in water (1.0 mL) was titrated with L-Arginine (98% purity, Aldrich) aqueous solution until the pH of the reaction solution was adjusted to 7.0. Overall 2.80 g of L-arginine was used. Acetone was added to precipitate the product. The product in aqueous solution was dried under high vacuum to remove as much water as possible. The residue was resuspended in ethanol (30 mL). The white precipitate was isolated by filtration, washed with ethanol (2×30 mL), dried to give 4.93 g of product (97% yield). The purity of the product was 96.3% from HPLC analysis.

reactant | 2,2′-dithiobis ethane sulfonic acid | 8.1 mmol, 2.5 g | C(CSSCCS(=O)(=O)O)S(=O)(=O)O | C4H10O6S4
reactant | L-Arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | L-arginine | 2.80 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Acetone | CC(=O)C | C3H6O
solvent | water | 1.0 mL | O | H2O
product | di-(L-arginine) 2,2′-Dithiobis Ethane Sulfonate | 4.93 g, 97% yield | C(CSSCCS(=O)(=O)O)S(=O)(=O)O.N[C@@H](CCCNC(N)=N)C(=O)O.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/2C6H14N4O2.C4H10O6S4/c2*7-4(5(11)12)2-1-3-10-6(8)9;5-13(6,7)3-1-11-12-2-4-14(8,9)10/h2*4H,1-3,7H2,(H,11,12)(H4,8,9,10);1-4H2,(H,5,6,7)(H,8,9,10)/t2*4-;/m00./s1
